US07910740B2
2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-methyl-thiazole-5-carboxylic acid ethyl ester
A solution of 46 mg (0.25 mmol) ethyl 2-chloroacetoacetate and of 36 mg (0.375 mmol) potassium rhodanide in ethanol (0.75 ml) was stirred at room temperature for 1 hour. 51 mg (0.25 mmol) 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine was added and the reaction was heated to reflux for 3 hours. A solid precipitated. The reaction was diluted with water and extracted twice with ethyl acetate. The insoluble precipitate was filtered off, washed with ethyl acetate and dried to yield the 16.5 mg of the title compound. The organic layer was dried over sodium sulphate, filtered and the solvent was evaporated in vacuo. The residue was purified on silica gel with methylene chloride/methanol 19/1. The fraction with the product was stirred with diethyl ether at room temperature and the solid was filtered off. The product was combined yielding 32 mg (35%) 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-methyl-thiazole-5-carboxylic acid ethyl ester as a yellow solid. MS ISP (m/e): 373.2 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.93 (s, 1H), 8.49 (s, 1H), 7.61 (s, 1H), 7.43 (d, 1H), 7.37 (s, 1H), 7.31 (s, 1H), 4.22 (q, 2H), 3.84 (s, 3H), 2.55 (s, 3H), 2.24 (s, 3H), 1.27 (t, 3H).

reactant | ethyl 2-chloroacetoacetate | 0.25 mmol, 46 mg | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | potassium rhodanide | 0.375 mmol, 36 mg | C(#N)[S-].[K+]
reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | 0.25 mmol, 51 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
solvent | ethanol | 0.75 ml | C(C)O | C2H6O
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-methyl-thiazole-5-carboxylic acid ethyl ester | 16.5 mg | C(C)OC(=O)C1=C(N=C(S1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C | C18H20N4O3S
